US05336690
Synthesis of [1,1':3', 1"-terphenyl]-2'-yl[[[2,6-bis(1-methylethyl)phenyl]amino]sulfonyl]carbamat
A solution of [1,1':3', 1"-terphenyl]-2'-yl(chlorosulfonyl)carbamate (5.0 g, 12.9 mmol) in 75 mL tetrahydrofuran was added dropwise to a solution of 2,6-diisopropyl aniline (2.29 g, 12.9 mmol) and triethylamine (1.3 g, 12.9 mmol) in 100 mL tetrahydrofuran at -15° C. under an atmosphere of nitrogen. The resulting mixture was warmed to room temperature and stirred for 16 hours. Concentrated in vacuo and partitioned the residue between water and ethyl acetate. Dried the organic layer over MgSO4 and evaporated to give an off-white solid. Chromatography on silica gel gave the title compound, mp 166°-168° C.

reactant | [1,1':3', 1"-terphenyl]-2'-yl(chlorosulfonyl)carbamate | 12.9 mmol, 5.0 g | C1(=CC=CC=C1)C1=C(C(=CC=C1)C1=CC=CC=C1)OC(NS(=O)(=O)Cl)=O | C19H14ClNO4S
reactant | 2,6-diisopropyl aniline | 12.9 mmol, 2.29 g | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
reactant | triethylamine | 12.9 mmol, 1.3 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | [1,1':3', 1"-terphenyl]-2'-yl[[[2,6-bis(1-methylethyl)phenyl]amino]sulfonyl]carbamat | C1(=CC=CC=C1)C1=C(C(=CC=C1)C1=CC=CC=C1)OC(NS(=O)(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C31H32N2O4S
